US05521213
Step 1: 2-phenylthio1-(4-(methanesulfonyl)phenyl)ethanone
To a solution of thiophenol (5.5 g) and 2-bromo-1-(4-(methanesulfonyl)phenyl)ethanone (14.8 g) in acetone (250 mL) was added K2CO3 (13.8 g). The mixture was stirred at r.t. for 1 hr then H2O added and the solution was extracted with EtOAc, the organic layer was washed with brine, dried over MgSO4, filtered and the solvent evaporated under vacuum. The residue was triturated in EtOAc/Et2O, filtered and air dried, giving 13.4 g of the title compound.

reactant | thiophenol | 5.5 g | C1(=CC=CC=C1)S | C6H6S
reactant | 2-bromo-1-(4-(methanesulfonyl)phenyl)ethanone | 14.8 g | BrCC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C9H9BrO3S
reactant | K2CO3 | 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | O | H2O
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | 2-phenylthio1-(4-(methanesulfonyl)phenyl)ethanone | 13.4 g | C1(=CC=CC=C1)SCC(=O)C1=CC=C(C=C1)S(=O)(=O)C | C15H14O3S2
